US04220465
A solution of 8.6 g of 4-chloro-2-fluorophenylisocyanate in 20 ml of anhydrous ether was added dropwise to a mixture of 9.8 g of crude 3-carbethoxy-5,6-dihydro-1,4-thiazine and 10 drops of triethylamine in 20 ml of ether. After the addition, 30 ml of hexane was added dropwise in 20 min. The solution was stirred at room temperature for 3 hrs. The solution was concentrated in vacuo to remove solvent. The resulting oil was crystallized from ether to give 10 g of 2-(4-chloro-2-fluorophenyl)-5,6-dihydro-1H-imidazo[5,1-c][1,4]thiazine-1,3(2H)-dione, m.p. 117.5°-120.5° C.

reactant | 4-chloro-2-fluorophenylisocyanate | 8.6 g | ClC1=CC(=C(C=C1)N=C=O)F | C7H3ClFNO
reactant | 3-carbethoxy-5,6-dihydro-1,4-thiazine | 9.8 g | C(=O)(OCC)C=1CSCCN1 | C7H11NO2S
reactant | hexane | 30 ml | CCCCCC | C6H14
solvent | ether | 20 ml | CCOCC | C4H10O
catalyst | triethylamine | 10 drops | C(C)N(CC)CC | C6H15N
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-(4-chloro-2-fluorophenyl)-5,6-dihydro-1H-imidazo[5,1-c][1,4]thiazine-1,3(2H)-dione | 10 g | ClC1=CC(=C(C=C1)N1C(N2C(=CSCC2)C1=O)=O)F | C12H8ClFN2O2S
